US09126970B2
Step a): 2,6-Dibromo-4-nitropyridine
A solution of 20 g (78 mmol) of 2,6-dibromopyridine 1-oxide in 70 ml of H2SO4 is warmed to 40° C. Nitrating acid (70 ml of H2SO4 and 34 ml of fuming HNO3) is added to the solution at this temperature. The reaction mixture is heated at 90° C. for 3 h. After cooling, the mixture is poured into 800 ml of ice-water. The precipitated solid is filtered off and washed with water. After drying, the 2,6-dibromo-4-nitropyridine 1-oxide (17.9 g) is suspended in 200 ml of chloroform, 6 ml of phosphorus tribromide (64 mmol) are added at room temperature, the mixture is stirred for 1 h and then heated under reflux for 2 days. After cooling, the solution is poured into 500 ml of ice-water and neutralised using solid NaHCO3. The aqueous phase is separated off and extracted a number of times with CHCl3, the combined organic phases are washed with a sodium thiosulfate solution and then with water, dried and evaporated. The residue is recrystallised from EtOH. Yield: 41.7 g (148 mmol), 70% of theory.

reactant | 2,6-dibromopyridine 1-oxide | 78 mmol, 20 g | BrC1=[N+](C(=CC=C1)Br)[O-] | C5H3Br2NO
reactant | HNO3 | 34 ml | [N+](=O)(O)[O-] | HNO3
reactant | phosphorus tribromide | 64 mmol, 6 ml | P(Br)(Br)Br | Br3P
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | H2SO4 | 70 ml | OS(=O)(=O)O | H2O4S
solvent | H2SO4 | 70 ml | OS(=O)(=O)O | H2O4S
product | 2,6-Dibromo-4-nitropyridine | BrC1=NC(=CC(=C1)[N+](=O)[O-])Br | C5H2Br2N2O2
